US08212032B2
step 2: trans-4-{[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]amino}-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide
To a solution of trans-4-{[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid (40 mg, 0.12 mmol) was added 1-[2-(trifluoromethyl)phenyl]methanamine (22 mg, 0.12 mmol), EDCI (24 mg, 0.12 mmol), HOBt (17 mgs, 0.12 mmol), and N-methylmorpholine (13 mg, 0.12 mmol). The mixture was stirred at rt for 20 h. The solvent was removed under vacuum, and the resulting residue was purified by HPLC to provide 20 mg (34% yield) of the desired material. MS (ES+): m/e 485.3 [M+H]+.

reactant | trans-4-{[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]amino}cyclohexanecarboxylic acid | 0.12 mmol, 40 mg | CNC1=NC(=NC(=N1)C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C(=O)O | C17H21N5O2
reactant | 1-[2-(trifluoromethyl)phenyl]methanamine | 0.12 mmol, 22 mg | FC(C1=C(C=CC=C1)CN)(F)F | C8H8F3N
reactant | EDCI | 0.12 mmol, 24 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.12 mmol, 17 mgs | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.12 mmol, 13 mg | CN1CCOCC1 | C5H11NO
product | trans-4-{[4-(methylamino)-6-phenyl-1,3,5-triazin-2-yl]amino}-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide | 20 mg, 34% yield | CNC1=NC(=NC(=N1)C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C25H27F3N6O
